US09315502B2
Intermediate L: 6-Bromo-3-(4-methoxy-phenyl)-imidazo[1,2-a]pyridine
The title compound, brown oil (0.47 g, 72%), MS (ISP) m/z=303.4 [(M+H)+], was prepared in accordance with the general method of intermediate E from commercially available 6-bromo-3-iodoimidazo[1,2-a]pyridine (0.7 g, 2.17 mmol) and commercially available 4-methoxy-phenylboronic acid (0.36 g, 2.38 mmol).

reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | 2.17 mmol, 0.7 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | 4-methoxy-phenylboronic acid | 2.38 mmol, 0.36 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 6-Bromo-3-(4-methoxy-phenyl)-imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)C2=CC=C(C=C2)OC | C14H11BrN2O
